US06506762B1
A. 2-(3,4-Dimethoxyphenyl)-N-(2-{[3,6-dimethyl-2-(2,4,6-trimethylphenoxy)(4-pyridyl)]amino}ethyl)acetamide
Stir a solution of [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-4-pyridyl][2-(methylamino)ethyl]amine (68 mg, 0.23 mmol), 3,4-dimethoxyphenylacetic acid (59 mg, 0.3 mmol), EDC (59 mg, 0.3 mmol) and HOBT (41 mg, 0.3 mmol) in DMF (1.0 mL) for 12 h. Dilute the reaction mixture with EtOAc (10 mL) and wash with saturated aq NaHCO3 (2×10 mL) and saturated aq brine (2×10 mL), dry and concentrate in vacuo to obtain the title compound as an oily residue. M+1: 478.

reactant | [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-4-pyridyl][2-(methylamino)ethyl]amine | 0.23 mmol, 68 mg | CC=1C(=NC(=CC1NCCNC)C)OC1=C(C=C(C=C1C)C)C | C19H27N3O
reactant | 3,4-dimethoxyphenylacetic acid | 0.3 mmol, 59 mg | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | EDC | 0.3 mmol, 59 mg
reactant | HOBT | 0.3 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-(3,4-Dimethoxyphenyl)-N-(2-{[3,6-dimethyl-2-(2,4,6-trimethylphenoxy)(4-pyridyl)]amino}ethyl)acetamide | COC=1C=C(C=CC1OC)CC(=O)NCCNC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C28H35N3O4
